US07700655B2
(1) 2-Amino-4-[4-(trifluoromethyl)phenyl]thiazole
Using 4′-(trifluoromethyl)acetophenone and thiourea as the raw materials, the same operation as the Example 395(1) gave the title compound.

reactant | 4′-(trifluoromethyl)acetophenone | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-Amino-4-[4-(trifluoromethyl)phenyl]thiazole | Yield: 77.5% | NC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F | C10H7F3N2S
